### PR TITLE
Adding big_mknat.

### PR DESCRIPTION
**Pull request by jouvelot**
##### Motivation for this change

@zhanquen and I found this useful, as a dual to `big_mkord` and complement to `big_ord0`. 

##### Minimal TODO list

- [X] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: mathcomp/ssreflect/bigop.v [hunk 1]
```diff
@@ -1086,6 +1086,14 @@ rewrite /index_iota subn0 -(big_map (@nat_of_ord n)).
...
 Qed.
 
+Lemma big_mknat n (P : pred 'I_n.+1) F :
+ \big[op/idx]_(i < n.+1 | P i) F i = 
+   \big[op/idx]_(0 <= i < n.+1 | P (inord i)) F (inord i). 
+Proof.
+by rewrite big_mkord [RHS](@eq_big _ _ _ P _ F)// => [i|i _]; 
+ [congr P|congr F]; apply: val_inj; rewrite /= inordK.
+Qed.
+
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1096]:
```suggestion
Lemma big_mknat n (P : pred 'I_n.+1) F :
  \big[op/idx]_(i < n.+1 | P i) F i
  = \big[op/idx]_(0 <= i < n.+1 | P (inord i)) F (inord i).
Proof. by rewrite big_mkord; apply: eq_big => ?; rewrite inord_val. Qed.

```

**Review by proux01 — APPROVED** [review]
Sorry for the late review. Why not. Small cleanup. I'll merge by the end of the week if there are no further comments.

File: mathcomp/ssreflect/bigop.v (hunk 1 above)
Comment (jouvelot) [reply mathcomp/ssreflect/bigop.v:1096]: This looks much better 😃  Thanks.

**Comment by proux01** [comment]
Graph-theory failure on master is probably unrelated, let's merge.
